US06632824B2
3-{8-[2-(1H-Indol-4-yloxy)ethyl]-8-azabicyclo[3.2.1]oct-2-en-3-yl}-1H-indole
To 200 mg (0.89 mmol) 3-(8-aza-bicyclo[3.2.1]oct-2-en-3-yl)-1H-indole, 174 mg (0.89 mmol) 4-(2-chloroethoxy)-1H-indole and 10 mL MeCN is added 246 mg (1.78 mmol) K2CO3. After heating at 80° C. for 12 h, the reaction mixture is cooled to 23° C., filtered through celite and evaporated to a light yellow oil. Flash chromatography on SiO2 gel, eluting with CHCl3/MeOH (20/1 to 10/1), gives 208 mg (0.54 mmol, a 61% yield) of the title compound as an off-white solid. The corresponding oxalate salt is prepared by combining the title compound with 1 equivalent of oxalic acid in EtOH/Et2O. The oxalate salt of the title compound precipitates as an off-white solid. Recrystallization from EtOH/Et2O gives the oxalate salt of the title compound as an off-white solid. mp: 135-138° C.; MS (ES) m/z 384 (MH)+.

reactant | 3-(8-aza-bicyclo[3.2.1]oct-2-en-3-yl)-1H-indole | 0.89 mmol, 200 mg | C12C=C(CC(CC1)N2)C2=CNC1=CC=CC=C21 | C15H16N2
reactant | 4-(2-chloroethoxy)-1H-indole | 0.89 mmol, 174 mg | ClCCOC1=C2C=CNC2=CC=C1 | C10H10ClNO
reactant | K2CO3 | 1.78 mmol, 246 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 3-{8-[2-(1H-Indol-4-yloxy)ethyl]-8-azabicyclo[3.2.1]oct-2-en-3-yl}-1H-indole | 61% yield | N1C=CC2=C(C=CC=C12)OCCN1C2C=C(CC1CC2)C2=CNC1=CC=CC=C21 | C25H25N3O
